US06187801B1
2-Methyl-6-(2,2,2-trifluoroethoxy)indeno[1,2-d]thiazole hydrobromide (compound of Example 13):
2-Bromo-5-(2,2,2-trifluoroethoxy)indan-1-one is stirred with an equivalent amount of thioacetamide in acetone at room temperature for 5 h. The precipitate consisting of 2-methyl-6-(2,2,2-trifluoroethoxy)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide is removed and boiled in 15 ml of glacial acetic acid. The solvent is removed by distillation under reduced pressure, and the residue is induced to crystallize under diisopropyl ether. Colorless crystals, melting point 220-224° C.

reactant | 2-Bromo-5-(2,2,2-trifluoroethoxy)indan-1-one | BrC1C(C2=CC=C(C=C2C1)OCC(F)(F)F)=O | C11H8BrF3O2
reactant | thioacetamide | C(C)(=S)N | C2H5NS
reactant | 2-methyl-6-(2,2,2-trifluoroethoxy)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.CC=1SC2C(N1)(C=1C=CC(=CC1C2)OCC(F)(F)F)O
solvent | acetone | CC(=O)C | C3H6O
product | 2-Methyl-6-(2,2,2-trifluoroethoxy)indeno[1,2-d]thiazole hydrobromide | Br.CC1SC=2C(=N1)C=1C=CC(=CC1C2)OCC(F)(F)F | InChI=1S/C13H10F3NOS.BrH/c1-7-17-12-10-3-2-9(18-6-13(14,15)16)4-8(10)5-11(12)19-7;/h2-5,7H,6H2,1H3;1H
